US05489593
1-[5-Fluoroindolyl-2-carbonyl]-4-[3-(1,1-dimethylethylamino)-2-pyrazinyl]piperazine
Following the general procedure of EXAMPLE 16 and making non-critical variations but starting with 5-fluoroindole-2-carboxylic acid (0.44 g) and 3-(1,1-dimethylethylamino)-2-pyrazinylpiperazine (2.50 mmol), a solid is obtained which is recrystallized from ethyl acetate to give the title compound.

reactant | 5-fluoroindole-2-carboxylic acid | 0.44 g | FC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6FNO2
reactant | 3-(1,1-dimethylethylamino)-2-pyrazinylpiperazine | 2.50 mmol | CC(C)(C)NC1C(NCCN1)C1=NC=CN=C1 | C12H21N5
product | 1-[5-Fluoroindolyl-2-carbonyl]-4-[3-(1,1-dimethylethylamino)-2-pyrazinyl]piperazine | CC(C)(C)NC1=NC=CN=C1N2CCN(CC2)C(=O)C3=CC4=C(N3)C=CC(=C4)F | C21H25FN6O
